* por-glitch -- stimulus half of the testbench fragment.
*
* The other half is a verbatim copy of design/netlist/temp_por_top.spice,
* appended by sim/build_tb.py to produce tb_por_glitch.spice. Edit THIS
* file (or the schematics), never the generated fragment.
*
* Netlist FRAGMENT: no .include / .lib / .temp / .control / .end -- the
* harness owns those. Parameters it supplies: vdd_val, vdd_nom, temp_c.
*
* WHAT THIS EXPERIMENT SUBSTANTIATES
*
* por-brownout's complement, per issue #14's own acceptance criteria: a
* worst-corner supply glitch that must NOT toggle RESETn, bracketing
* sim/por-output-chain-deglitch/'s deglitch dwell boundary
* (1.86-8.88 us at the cell level, idealised bias) on the full four-cell
* assembly with bias_core's real, possibly-lower IBIAS in the loop (as low
* as 297 nA at ss/-40C per sim/bias-core-designer-check/, below the 500 nA
* nominal / 250 nA half-IBIAS the cell-level record swept) -- so this is the
* first time the deglitch dwell margin is checked against a real, not
* idealised, IBIAS. Not a separately-named spec row; verified against
* target-spec.md#por-brownout's deliberate deglitch-rejection carve-out
* ("dips shallower than VPOR-downarrow,max or shorter than the deglitch
* dwell are explicitly not guaranteed to assert reset").
*
* GLITCH CHOICE: 300 ns, full depth (down to 0.2 V) -- roughly 6-30x SHORTER
* than the shortest dwell sim/por-output-chain-deglitch/ measured at any
* IBIAS split (1.86 us nominal, 8.88 us at half), so this is deliberately
* deep in the "must reject" region rather than probing the boundary itself
* (a boundary sweep is a #12-owned refinement, not this record's job).
*
* WHAT "IMMUNITY" IS MEASURED AS, AND WHY NOT SIMPLY "RESETn NEVER DROOPS".
* RESETn is a push-pull CMOS output powered from the same rail that is being
* glitched (DR-004), so while VDD is at 0.2 V the released-high output
* CANNOT hold 3.3 V -- it follows its own supply. A check that demanded
* v(resetn) stay above a fixed logic-high threshold THROUGH the glitch would
* therefore be testing the laws of the rail, not the POR's decision, and
* would fail at every corner for a reason that has nothing to do with
* deglitching. What "the glitch was rejected" actually means is that the POR
* never DECIDED to reset:
*
*   - v(resetn) is a solid released high again once the rail is back
*     (sampled from 100 us after the glitch onward), and
*   - it stays there. A genuine assert regenerates the full
*     spec/target-spec.md#por-reset-pulse, which
*     sim/por-output-chain-pulse/ measures at 4.22-7.75 ms at the cell level
*     and sim/temp-por-top-release/ at 5.6-17.0 ms end to end on the
*     assembly -- 1.5 to 2 orders of magnitude longer than the 100 us
*     settling exclusion, so a real assert cannot hide inside it.
*
* The droop RESETn does take during the 300 ns rail excursion is recorded as
* an informative measurement (resetn_droop_during_glitch_v) rather than
* checked, so the evidence trail carries the number without pretending it is
* a pass/fail criterion.
*
* TIMESTEP: the manifest asks for `tran 20u 26m`, i.e. a 20 us ceiling on the
* step in QUIET regions only. The 300 ns glitch is a set of PWL breakpoints,
* which ngspice always lands on exactly, and the rail slews 3.4 V in 100 ns
* there, so local truncation error drives the step into the sub-nanosecond
* range across the disturbance whatever the ceiling says. The ceiling only
* governs the two long static holds, where nothing is moving and a finer
* step buys nothing but solve time -- and the full four-cell assembly costs
* roughly 12 ms of solve per step, so the ceiling is the difference between
* a grid that runs and one that does not. The event this deck must not miss
* -- a genuine reset assertion -- lasts at least one reset-pulse width
* (>=1 ms ratified, 4.2-17.0 ms measured), i.e. 50 to 850 samples even at
* the ceiling.
*
* ONE DUT, ONE TRAN, staged as a timeline:
*
*   0    ->  1 ms   cold start: VDD ramps 0 -> vdd_val in 1 ms (2970-3630
*                    V/s, inside the ratified por-ramp-rate envelope and the
*                    exact cold start sim/temp-por-top-release/ validates
*                    releases correctly at all 81 points).
*    1   -> 20 ms   held at vdd_val -- rail settled, RESETn released.
*                    sim/temp-por-top-release/ measures release complete by
*                    16.95 ms at the slowest corner (ss/-40C/3.63V) off this
*                    same 1 ms ramp, so 20 ms leaves 3 ms of margin.
*   20   -> 20.0003 ms  VDD glitches from vdd_val to 0.2 V and back over
*                    300 ns total (100 ns down, 100 ns held, 100 ns up) --
*                    well under every measured deglitch dwell.
*   20.0003 -> 26 ms  held at vdd_val -- RESETn must never have left its
*                    released state. 6 ms of observation is ample: any
*                    genuine assert holds RESETn low for the full >=1 ms
*                    (measured 4.22-17.0 ms) reset pulse, so it would be
*                    plainly visible in this window; a deglitch REJECTION
*                    has no recovery transient to wait out, unlike
*                    sim/por-brownout/'s qualifying-dip case.

vsup vdd 0 PWL(
+ 0          0
+ 1m         {vdd_val}
+ 20m        {vdd_val}
+ 20.0001m   0.2
+ 20.0002m   0.2
+ 20.0003m   {vdd_val}
+ 26m        {vdd_val}
+ )

Cpp ptat 0 1p
Cpc ctat 0 1p
Crn resetn 0 5p

xdut vdd 0 ptat ctat resetn temp_por_top
